US08466289B2
Synthesis of Intermediate 2-(oxetan-3-yl)ethyl 4-methylbenzenesulfonate (I-17a)
Using the same reaction conditions and procedure as described for the preparation of Intermediate (I-16a), 2-(oxetan-3-yl)ethanol (1 g, 6.944 mmol) was reacted with p-Toluene sulfonyl chloride (1.9 g, 10.416 mmol) in dry pyridine (10 mL) to afford the crude product. The reaction mass was poured into ice-water and extracted using ethyl acetate. The organic layer was washed with 1N HCl, brine solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford the crude product. Purification by column chromatography on silica gel (20% ethyl acetate in hexane) afforded 1 g of the product (40% yield).

reactant | 2-(oxetan-3-yl)ethanol | 6.944 mmol, 1 g | O1CC(C1)CCO | C5H10O2
reactant | p-Toluene sulfonyl chloride | 10.416 mmol, 1.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-(oxetan-3-yl)ethyl 4-methylbenzenesulfonate | 1 g, 40% yield | CC1=CC=C(C=C1)S(=O)(=O)OCCC1COC1 | C12H16O4S
